US07495103B2
A 1 L three-necked flask fitted with a mechanical stirrer was charged with 2-phenylaminomethylene-malonic acid diethyl ester (26.3 g, 0.1 mol), polyphosphoric acid (270 g) and phosphoryl chloride (750 g). The mixture was heated to about 70 ° C. and stirred for 4 h. The mixture was cooled to room temperature, and filtered. The residue was treated with aqueous Na2CO3 solution, filtered, washed with water and dried. 4-Hydroxyquinoline-3-carboxylic acid ethyl ester was obtained as a pale brown solid (15.2 g, 70%). The crude product was used in next step without further purification.

reactant | 2-phenylaminomethylene-malonic acid diethyl ester | 0.1 mol, 26.3 g | C(C)OC(C(C(=O)OCC)=CNC1=CC=CC=C1)=O | C14H17NO4
reactant | phosphoryl chloride | 750 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Hydroxyquinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NC2=CC=CC=C2C1O | C12H11NO3
